Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
urinary retention; ___ numbness and pain
 
Major Surgical or Invasive Procedure:
L5-S1 discectomy on ___

 
History of Present Illness:
___ yo F hx disc herniation and sciatica in early ___ after a
tennis injury which has been a recurrent problem, who presents
with onset 3 weeks ago of acute pain in back and right leg after
a fall to the ground.  The pain radiates into right buttock and
posterior leg and has improved with a course of prednisone.  She
also has posterior and medial right thigh numbness that extends
into the heel and wraps around the right lateral foot. She
underwent MRI as an outpatient the week after the injury that
showed a large right sided L5-S1 Disc herniation compressing the
right S1 nerve root.  She completed a course of prednisone.  On
___ she noted urinary frequency with leakage/inability
to control her bladder before she can make it to the bathroom 
and
the sensation that she cannot fully empty her bladder.  She 
feels
her bladder to be full and knows when she has to urinate.  She
feels that she has a foot drop on the right and inability to toe
walk, which have resulted in a change in her gait.  No loss of
bowel.  The numbness is confined to the right leg and foot.

 
Past Medical History:
PMH: Depression, disc herniation L4-S1

 
Social History:
___
Family History:
FH: Paternal: DM, CAD; mother died of aneurysm in her ___

 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
O: HR: 89 BP: 123/65 RR:20 Sat 100% 
Gen: WD/WN, comfortable, NAD.
HEENT: normocephalic, atraumatic
Neck: Supple.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Motor:
      IP    Q  H     AT    ___    G

Sensation: Intact to light touch, proprioception, pinprick and
vibration bilaterally.

Reflexes: Pa Ac
Right      1  0
Left       1  0
No Clonus

Toes mute
Rectal tone intact per ED resident
Post Void Residual: 300cc

PHYSICAL EXAMINATION ON DISCHARGE:
Awake. Alert and oriented. Speech fluent and clear. 
Comprehension intact. 
Upper extremity strength purposeful.
Lower extremity strength ___ bilaterally.
Dressing: slight serosanguinous staining at bottom of dressing.

 
Pertinent Results:
MRI Lumbar Spine ___:
Right paracentral and foraminal disc extrusion at L5-S1, with 
severe 
narrowing of the subarticular zone at that level, affecting the 
traversing 
right S1 and S2 nerve roots.  Note is also made of a 5mm 
hypointense 
structure, posterior to S1, concerning for a small free disc 
fragment. 
Moderate bilateral neural foraminal narrowing at L4-L5 and at 
L5-S1.  

___ 06:55PM   ___ PTT-26.5 ___
___ 06:55PM   PLT COUNT-256
___ 06:55PM   NEUTS-65.9 ___ MONOS-7.1 EOS-3.2 
BASOS-0.7
___ 06:55PM   WBC-9.6 RBC-4.14* HGB-13.6 HCT-39.8 MCV-96 
MCH-32.7* MCHC-34.0 RDW-12.8
___ 06:55PM   CALCIUM-8.9 PHOSPHATE-3.6 MAGNESIUM-2.1
___ 06:55PM   estGFR-Using this
___ 06:55PM   GLUCOSE-92 UREA N-15 CREAT-0.6 SODIUM-137 
POTASSIUM-4.0 CHLORIDE-100 TOTAL CO2-26 ANION GAP-15
___ 07:14PM   LACTATE-0.9 K+-5.5*
___ 08:00PM URINE  MUCOUS-RARE
___ 08:00PM URINE  RBC-2 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-3
___ 08:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-TR
___ 08:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:00PM URINE  UCG-NEGATIVE
___ 08:00PM URINE  HOURS-RANDOM
___ 12:51PM URINE  MUCOUS-RARE
___ 12:51PM URINE  RBC-2 WBC-2 BACTERIA-FEW YEAST-NONE 
EPI-11
___ 12:51PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-MOD
___ 12:51PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:51PM URINE  GR HOLD-HOLD
___ 12:51PM URINE  HOURS-RANDOM
___ 01:05PM   ___ PTT-30.9 ___
___ 01:05PM   PLT COUNT-273
___ 01:05PM   WBC-7.6 RBC-4.31 HGB-14.1 HCT-41.2 MCV-96 
MCH-32.7* MCHC-34.3 RDW-12.7
___ 01:05PM   HCG-<5
___ 01:05PM   CALCIUM-9.5 PHOSPHATE-3.8 MAGNESIUM-2.0
___ 01:05PM   GLUCOSE-100 UREA N-11 CREAT-0.6 SODIUM-139 
POTASSIUM-4.1 CHLORIDE-103 TOTAL CO2-23 ANION GAP-17
 
Brief Hospital Course:
Ms. ___ presented to the emergency department on the day of 
admission, ___ with complaints of right lower extremity 
pain, numbness and complaints of urinary retention.  She 
underwent a MRI while in the emergency department which showed a 
large herniated and extruded disc at L5-S1. She was made NPO and 
surgical intervention was planned for the following day. 

On HD #1, ___, she underwent a L5-S1 microdiscectomy. She 
tolerated the procedure well and was extubated in the operating 
room. She was transferred to the PACU for recovery. 

On POD #1, ___, she was ambulating independently and her 
lower extremity strength examination was intact throughout. She 
was able to void without any hesitation or difficulty. She was 
tolerating a diet. It was determined that she would be 
discharged to home later that day. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 10 mg PO DAILY 
2. BuPROPion (Sustained Release) 100 mg PO QAM 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth two times daily 
Disp #*20 Capsule Refills:*0
2. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*30 Tablet Refills:*0
3. Citalopram 10 mg PO DAILY 
4. BuPROPion (Sustained Release) 100 mg PO QAM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L5-S1 herniated disc

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Lumbar Laminectomy/Discectomy
Dr. ___

•Your large dressing may be removed the second day after 
surgery, ___.
•You have steri-strips in place, you must keep them dry for 72 
hours.  Do not pull them off. They will fall off on their own or 
be taken off in the office.  You may trim the edges if they 
begin to curl.
• No tub baths or pool swimming for two weeks from your date of 
surgery.
•Do not smoke.
•No pulling up, lifting more than 10 lbs., or excessive bending 
or twisting.
•Limit your use of stairs to ___ times per day.
•Have a friend or family member check your incision daily for 
signs of infection.
•Take your pain medication as instructed; you may find it best 
if taken in the morning when you wake-up for morning stiffness, 
and before bed for sleeping discomfort. Pain medication should 
be used as needed when you have pain. You do not need to take it 
if you do not have pain.
•Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc. for two weeks.
•Increase your intake of fluids and fiber, as pain medicine 
(narcotics) can cause constipation. We recommend taking an over 
the counter stool softener, such as Docusate (Colace) while 
taking narcotic pain medication.
•Clearance to drive and return to work will be addressed at 
your post-operative office visit.

 
Followup Instructions:
___